US07262201B1
3-Phenyl-4,5-dihydro-1H-pyrazol-5-one (182 mg, 1.14 mmol), (J. Org. Chem., 1967, 32, 3321-3324), was added in portions to a suspension of sodium hydride (46 mg, 1.14 mmol, prewashed with pentane) in DMF (3 ml). After stirring for 30 minutes at ambient temperature, 4-chloro-6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)quinazoline (200 mg, 0.57 mmol) was added. The mixture was stirred for 30 minutes at 60° C. After cooling, the mixture was diluted with saturated aqueous ammonium chloride solution and partitioned between ethyl acetate and water. The organic layer was passed through an ISOLUTE (trade mark of IST) SPE column. The column was thoroughly washed with methanol. The product was recovered from the column by washing with a mixture of 0.1M solution of ammonia in methylene chloride/methanol (1/1). The volatiles were removed by evaporation and the solid was collected by filtration, washed with ether and dried under vacuum to give 6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)-4-(5-phenylpyrazol-3-yloxy)quinazoline (206 mg, 76%).

reactant | 3-Phenyl-4,5-dihydro-1H-pyrazol-5-one | 1.14 mmol, 182 mg | C1(=CC=CC=C1)C1=NNC(C1)=O | C9H8N2O
reactant | sodium hydride | 1.14 mmol, 46 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)quinazoline | 0.57 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C | C17H23ClN4O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
product | 6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)-4-(5-phenylpyrazol-3-yloxy)quinazoline | 206 mg, 76% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCN(CC1)C)OC1=NNC(=C1)C1=CC=CC=C1 | C26H30N6O3
